US08877758B2
14.4 3-methoxy-N1-methylbenzene-1,2-diamine
7.4 g (3-methoxy-2-nitrophenyl)-methylamine are suspended in 150 ml of ethyl acetate and hydrogenated with 1 g Pd/C 10% at a pressure of 50 psi and ambient temperature. After 4.5 hours the catalyst is suction filtered and the filtrate is evaporated to dryness. 5.9 g of the product are obtained as an oil.

reactant | (3-methoxy-2-nitrophenyl)-methylamine | 7.4 g | COC=1C(=C(C=CC1)NC)[N+](=O)[O-] | C8H10N2O3
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 3-methoxy-N1-methylbenzene-1,2-diamine | 5.9 g | COC1=C(C(=CC=C1)NC)N | C8H12N2O
